US08614327B2
To a solution of (S)-6-(2-methylpyrrolidin-1-yl)-3-nitro-2-(trifluoromethyl)pyridine (300 mg, 1.1 mmoL) in 5 mL methanol was added NiCl2.6H2O (772 mg, 3.3 mmoL). After stirring for 5 min, NaBH4 (84 mg, 2.2 mmoL) was added in three portions at 0° C. The reaction mixture was stirred for 5 min and quenched with water (10 mL) and was extracted with EtOAc (15 mL×3). The combined organic layer was washed with brine, dried over anhydrous Na2SO4, concentrated and purified by silica gel chromatography on silica gel to afford (S)-6-(2-methylpyrrolidin-1-yl)-2-(trifluoromethyl)pyridin-3-amine (260 mg, 92.6% yield).

reactant | (S)-6-(2-methylpyrrolidin-1-yl)-3-nitro-2-(trifluoromethyl)pyridine | 300 mg | C[C@@H]1N(CCC1)C1=CC=C(C(=N1)C(F)(F)F)[N+](=O)[O-] | C11H12F3N3O2
reactant | NaBH4 | 84 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | (S)-6-(2-methylpyrrolidin-1-yl)-2-(trifluoromethyl)pyridin-3-amine | 260 mg, 92.6% yield | C[C@@H]1N(CCC1)C1=CC=C(C(=N1)C(F)(F)F)N | C11H14F3N3
